US06333323B1
3-Acetyl-2-benzylindole
To a solution of 29.5 g (39 mmol) of dimethylacetamide was added dropwise under ice-cooling 7.00 g (76.9 mmol) of phosphorus oxychloride. After stirring for 30 min at room temperature, to the mixture was added 8.00 g (38.6 mmol) of 2-benzylindole (prepared in accordance with the literature (Khim.Geterotsikl.Soedin.1994,p133)). After stirring for 2 hours at 100° C., the mixture was poured to ice-water, neutralized with 2N NaOH, extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The obtained crystal was washed with n-hexane to give 5.1 g of the titled compound. Yield: 52%.

reactant | dimethylacetamide | 39 mmol, 29.5 g | CC(=O)N(C)C | C4H9NO
reactant | phosphorus oxychloride | 76.9 mmol, 7.00 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-benzylindole | 38.6 mmol, 8.00 g | C(C1=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C15H13N
reactant | NaOH | 2N | [OH-].[Na+]
product | 3-Acetyl-2-benzylindole | 5.1 g, Yield: 52% | C(C)(=O)C1=C(NC2=CC=CC=C12)CC1=CC=CC=C1 | C17H15NO
